US06787536B2
2-Piperazin-1-yl-5-(4-trifluoromethylphenyl)pyrimidine, dihydrochloride
Prepared according to the-method for the preparation of 5-(4-fluorophenyl)-2-piperazin-1-ylpyrimidine dihydrochloride, from 4-[5-(4-trifluoromethyl-phenyl)pyrimidin-2-yl]piperazine-1-carboxylic acid tert-butyl ester (0.392 g), to furnish the title compound as an off-white solid (0.250 g, 69%).

reactant | 5-(4-fluorophenyl)-2-piperazin-1-ylpyrimidine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C=1C=NC(=NC1)N1CCNCC1
reactant | 4-[5-(4-trifluoromethyl-phenyl)pyrimidin-2-yl]piperazine-1-carboxylic acid tert-butyl ester | 0.392 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)C1=CC=C(C=C1)C(F)(F)F | C20H23F3N4O2
product | 2-Piperazin-1-yl-5-(4-trifluoromethylphenyl)pyrimidine, dihydrochloride | 0.250 g, 69% | Cl.Cl.N1(CCNCC1)C1=NC=C(C=N1)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C15H15F3N4.2ClH/c16-15(17,18)13-3-1-11(2-4-13)12-9-20-14(21-10-12)22-7-5-19-6-8-22;;/h1-4,9-10,19H,5-8H2;2*1H
